US04563459
A mixture of 20 g of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 28.5 g of N-methylpiperazine and 120 ml of anhydrous dimethylsulphoxide is heated at 135°-140° C. for 2.5 hours. The solvent is distilled off under a fine vacuum and the residue is suspended in about 50 ml of water. The solid is filtered off with suction, rinsed with water, dried over calcium chloride in a vacuum drying cabinet at 80° C. and recrystallized from glycol monomethyl ether. 14.5 g of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-methyl-1-piperazinyl)-3-quinolinecarboxylic acid of decomposition point 248°-250° C. are obtained.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 20 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | N-methylpiperazine | 28.5 g | CN1CCNCC1 | C5H12N2
solvent | dimethylsulphoxide | 120 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-methyl-1-piperazinyl)-3-quinolinecarboxylic acid | 14.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)C(=O)O | C18H20FN3O3
